US09303033B2
2-chloro-3-nitrophenol (1 g, 5.8 mmol) was dissolved in DMF (6 mL). K2CO3 (1.6 g, 11.5 mmol) was added and the solution changed from yellow to red. 4-(2-chloroethyl)morpholine hydrochloride (1.07 g, 5.8 mmol) was added and the solution was allowed to stir for 15 h. The reaction was poured into H2O (30 mL) and extracted with EtOAc (3×30 mL). The organics were washed with 1N NaOH (100 mL) and brine (100 mL) and then dried over MgSO4, filtered, and concentrated in vacuo to provide 4-(2-(2-chloro-3-nitrophenoxy)ethyl)morpholine (1.4 g, 87%) as a golden oil.

reactant | 2-chloro-3-nitrophenol | 5.8 mmol, 1 g | ClC1=C(C=CC=C1[N+](=O)[O-])O | C6H4ClNO3
reactant | K2CO3 | 11.5 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 5.8 mmol, 1.07 g | Cl.ClCCN1CCOCC1
reactant | H2O | 30 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-(2-(2-chloro-3-nitrophenoxy)ethyl)morpholine | 1.4 g, 87% | ClC1=C(OCCN2CCOCC2)C=CC=C1[N+](=O)[O-] | C12H15ClN2O4
